US05925667
1-ethyl-2-(2-geranyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2-geranyloxybenzoic acid (1.37 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 1.53 g (80%) of the aimed compound.

reactant | 2-geranyloxybenzoic acid | 1.37 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)O)C=CC=C1 | C17H22O3
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2-geranyloxybenzoylaminomethyl)pyrrolidine | 1.53 g, 80% | C(C)N1C(CCC1)CNC(C1=C(C=CC=C1)OC\C=C(/C)\CCC=C(C)C)=O | C24H36N2O2
